US08420052B2
A mixture of 4-(naphthalen-2-yl)thiazol-2-amine hydrochloride (113 mg, 0.5 mmol), 1-bromo-2-fluoroethane (127 mg, 1 mmol), Cs2CO3 (326 mg, 1 mmol), and 15 mg KI in 2 mL of NMP was heated at 80 C for 20 min in a microwave reactor. After cooling to rt, the mixture was taken up to 50 mL EtOAc and washed with water (3×80 mL) and dried over MgSO4 and concentrated. The residue was chromatographed (hexane/EtOAc) to afford N-(2-fluoroethyl)-4-(naphthalen-2-yl)thiazol-2-amine as a white solid (10 mg, 18%). 1H NMR (400 MHz, CDCl3) δ 12.32 (s, 1 H), 8.29 (d, J=1.6 Hz, 1 H), 7.95-7.91 (m, 2 H), 7.86-7.83 (m, 1 H), 7.67 (dd, J=8.4, 2.0 Hz, 1 H), 7.57-7.54 (m, 2 H), 6.70 (s, 1 H), 4.79 (t, J=4.8 Hz, 1 H), 4.67 (t, J=4.8 Hz, 1 H), 3.71 (m, 1 H), 3.65 (m, 1 H); MS (ESI) m/z 273 (M+H+).

reactant | 4-(naphthalen-2-yl)thiazol-2-amine hydrochloride | 0.5 mmol, 113 mg | Cl.C1=C(C=CC2=CC=CC=C12)C=1N=C(SC1)N
reactant | 1-bromo-2-fluoroethane | 1 mmol, 127 mg | BrCCF | C2H4BrF
reactant | Cs2CO3 | 1 mmol, 326 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N-(2-fluoroethyl)-4-(naphthalen-2-yl)thiazol-2-amine | 10 mg, 18% | FCCNC=1SC=C(N1)C1=CC2=CC=CC=C2C=C1 | C15H13FN2S
